US06608062B1
d) 2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-5-methyl-8-phenyl-3-(thien-2-yl)imidazo[1,2-d][1,2,4]triazine
A mixture of 3-bromo-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-5-methyl-8-phenylimidazo[1,2-d][1,2,4]triazine (70 mg, 0.169 mmol), 2-thiopheneboronic acid (32 mg, 0.254 mmol) and cesium carbonate (110 mg, 0.338 mmol) in anhydrous 1,4-dioxane (5 ml) was degassed using three freeze-pump-thaw cycles. Tris(dibenzylideneacetone)dipalladium(0) (15.5 mg, 0.017 mmol) and a 0.1M solution of tri-tert-butylphosphine in 1,4-dioxane (0.406 ml, 0.406 mmol) was added, and the mixture was further degassed with two more freeze-pump-thaw cycles before heating at 90° C. under nitrogen for 17 h. The mixture was filtered through glass fibre paper, washed with ethyl acetate. The filtrate was washed with saturated NaCl solution, separated, dried over MgSO4 and evaporated in vacuo. The residue was purified by flash chromatography (SiO2; 2% MeOH in CH2Cl2), and the product recrystallised from CH2Cl2 to afford the title compound (10.4 mg) as a white solid. δH (400 MHz; CDCl3) 1.28 (3H, t, J 7.2), 2.58 (3H, d), 4.19 (2H, q, J 7.2), 5.68 (2H, s), 7.18 (2H, m), 7.57 (4H, m), 7.89 (1H, s), 8.61 (2H, m); m/z (ES+) 414/416 (M++H).

reactant | 3-bromo-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-5-methyl-8-phenylimidazo[1,2-d][1,2,4]triazine | 0.169 mmol, 70 mg | BrC1=C(N=C2N1C(=NN=C2C2=CC=CC=C2)C)OCC=2N(N=CN2)CC | C17H16BrN7O
reactant | 2-thiopheneboronic acid | 0.254 mmol, 32 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | cesium carbonate | 0.338 mmol, 110 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.017 mmol, 15.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 0.406 mmol, 0.406 ml | O1CCOCC1 | C4H8O2
product | 2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-5-methyl-8-phenyl-3-(thien-2-yl)imidazo[1,2-d][1,2,4]triazine | 10.4 mg | C(C)N1N=CN=C1COC=1N=C2N(C(=NN=C2C2=CC=CC=C2)C)C1C=1SC=CC1 | C21H19N7OS
